US05730901
Preparation of 4'-(trans-4-n-propyl-4-silacyclohexyl)-2',3-difluoro-4-(1,2,2-trifluorovinyloxy)biphenyl
The general procedure of Example 36 was repeated using 4-propyl-4-phenyl-4-silacyclohexanone instead of 4-pentyl-4-phenyl-4-silacyclohexanone and 4-bromo-2-fluoro-1-(1,2,2-trifluorovinyloxy)benzene instead of 4-bromo-2,6-difluoro-1-(1,2,2-trifluorovinyl)benzene, thereby obtaining the intended compound.

reactant | 4-propyl-4-phenyl-4-silacyclohexanone | C(CC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C14H20OSi
reactant | 4-bromo-2-fluoro-1-(1,2,2-trifluorovinyloxy)benzene | BrC1=CC(=C(C=C1)OC(=C(F)F)F)F | C8H3BrF4O
product | 4'-(trans-4-n-propyl-4-silacyclohexyl)-2',3-difluoro-4-(1,2,2-trifluorovinyloxy)biphenyl | C(CC)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)OC(=C(F)F)F)F)F | C22H23F5OSi
